US08623896B2
To a solution of 4-(hydroxyimino-methyl)-2-methyl-benzoic acid tert-butyl ester (Example I18) (32.5 g) in N,N-dimethylformamide (280 ml) was added N-chlorosuccinimide (“NCS”) (18.44 g). The reaction mixture was stirred at ambient temperature for 3.5 hour. A solution of 1,3-dichloro-5-(1-trifluoromethyl-vinyl)-benzene (33.3 g) (prepared according to WO 2005/085216) and triethylamine (19.25 ml) in N,N-dimethylformamide (220 ml) was added dropwise to the reaction mixture. The reaction mixture was stirred at ambient temperature for 16 hours. Water and ethyl acetate were added and the phases were separated. The organic layer was washed with water, dried over sodium sulfate and concentrated. The residue was crystallized from ethyl acetate and heptane to give 4-[5-(3,5-dichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-2-methyl-benzoic acid tert-butyl ester (40.12 g). 1H-NMR (CDCl3, 400 MHz): 7.88 (d, 1H), 7.55-7.45 (m, 5H), 4.10 (d, 1H), 3.75 (d, 1H), 2.60 (s, 3H), 1.65 (s, 9H).

reactant | 4-(hydroxyimino-methyl)-2-methyl-benzoic acid tert-butyl ester | 32.5 g | C(C)(C)(C)OC(C1=C(C=C(C=C1)C=NO)C)=O | C13H17NO3
reactant | N-chlorosuccinimide | 18.44 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | 1,3-dichloro-5-(1-trifluoromethyl-vinyl)-benzene | 33.3 g | ClC1=CC(=CC(=C1)C(=C)C(F)(F)F)Cl | C9H5Cl2F3
reactant | triethylamine | 19.25 ml | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 280 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 220 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
product | 4-[5-(3,5-dichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-2-methyl-benzoic acid tert-butyl ester | 40.12 g | C(C)(C)(C)OC(C1=C(C=C(C=C1)C1=NOC(C1)(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl)C)=O | C22H20Cl2F3NO3
